* C:\Desktop\reserch\IHP_2024\20240613\Draft2.asc
I1 N002 0 1µ
G1 mid N002 0 N002 24.82m
R1 N002 0 650
C1 N002 0 16f
R2 0 N002 11.327k
R3 mid N002 19.2k
R4 mid 0 870
C2 0 N002 12.95f
C3 mid 0 2.396f
C4 N001 0 13.44f
C5 out N001 0.7726f
R5 N001 0 9.737k
R6 out 0 267k
R7 out 0 540
G2 out 0 N001 0 24.82m
V1 N001 0 AC 1
.ac dec 100 1Meg 1T
* .dc v1 -1 1 1m
.backanno
.end
